US05614532
7-Chloro-4-methoxycarbonylmethoxy-3-phenyl-2(1H)-quinolone
A solution of 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone (0.5 g) in DMF was stirred for 14 h with methyl bromoacetate (206 μl) and sodium bicarbonate (1.55 g). The reaction mixture was then partitioned between water and ethyl acetate. The aqueous phase was extracted with two further portions of ethyl acetate. The combined organic phases were washed with brine (3×), dried (MgSO4) and the solvent was removed in vacuo to give the crude product which was recrystallised from ethyl acetate-hexane to give the title compound, 208 mg; mp 188°-191° C. (ethyl acetate-hexanes); Found: C, 63.27; H, 4.24; N, 4.07. C18H14ClNO4 requires C, 62.89; H, 4.11; N, 4.07%; δ (360 MHz, DMSO-d6) 3.55 (3H, s, CO2CH3), 4.19 (2H, s, CH2CO2), 7.28 (1H, dd, J=2.6, 8.7 Hz, 6-H), 7.35-7.40 (6H, m, aromatics), 8.01 (1H, d, J=8.7 Hz, 5-H), 11.92 (1H, s, NH); m/z CI+ 344 (M+).

reactant | 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone | 0.5 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)O | C15H10ClNO2
reactant | methyl bromoacetate | 206 μl | BrCC(=O)OC | C3H5BrO2
reactant | sodium bicarbonate | 1.55 g | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-Chloro-4-methoxycarbonylmethoxy-3-phenyl-2(1H)-quinolone | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)OCC(=O)OC | C18H14ClNO4
